US08431563B2
A 20-mL sealed tube was charged with 2-(4-(4-((6-chloro-3-pyridinyl)sulfonyl)-2-(1-propyn-1-yl)-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol (0.340 g, 0.627 mmol), concentrated ammonium hydroxide (5.00 mL, 38.5 mmol) and EtOH (5 mL). The reaction mixture was heated in an Initiator (Biotage, AB, Uppsala, Sweden) at 120° C. for 1 h. The reaction mixture was further heated in a heating block at 110° C. for 5 h. The reaction mixture was concentrated and purified by column chromatography (25 g of silica, 30 to 80% EtOAc in hexanes) to afford 2-(4-(4-((6-amino-3-pyridinyl)sulfonyl)-2-(1-propyn-1-yl)-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol (0.289 g) as a mixture of two enantiomers.

reactant | 2-(4-(4-((6-chloro-3-pyridinyl)sulfonyl)-2-(1-propyn-1-yl)-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol | 0.627 mmol, 0.340 g | ClC1=CC=C(C=N1)S(=O)(=O)N1CC(N(CC1)C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)C#CC | C21H18ClF6N3O3S
reactant | ammonium hydroxide | 38.5 mmol, 5.00 mL | [OH-].[NH4+]
solvent | EtOH | 5 mL | CCO | C2H6O
product | 2-(4-(4-((6-amino-3-pyridinyl)sulfonyl)-2-(1-propyn-1-yl)-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol | 0.289 g | NC1=CC=C(C=N1)S(=O)(=O)N1CC(N(CC1)C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)C#CC | C21H20F6N4O3S
